US06699992B2
96.6 g of 2,4-dichloro-5-fluoronitrobenzene (0.46 mol) was stirred with 1150 ml of glacial acetate acid containing 9.7 ml of bromine. Then, a solution consisting of 690 ml of concentrated sulfuric acid and 464 ml of water was added thereto. To the resultant was added 67.5 g of potassium bromate seven times (9.65 g each) at 40° C. over around 2 hours. The reaction was ceased after 8 hours. The reacting mixture was slowly poured into 3000 ml of water containing 46.0 g of sodium bisulfite, and kept overnight. The resultant was filtered, and washed with warm water (about 30° C.) from three to four times, and dried to give a primrose crystal of 3-bromo-2,4-dichloro-5-fluoronitrobenzene, 122.1 g (0.423 mol), mp 51-53.5° C., in 91.9% yield.

reactant | 2,4-dichloro-5-fluoronitrobenzene | 0.46 mol, 96.6 g | ClC1=C(C=C(C(=C1)Cl)F)[N+](=O)[O-] | C6H2Cl2FNO2
reactant | acetate | 1150 ml | C(C)(=O)[O-]
reactant | bromine | 9.7 ml | BrBr | Br2
reactant | sulfuric acid | 690 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium bromate | 67.5 g | Br(=O)(=O)[O-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | 3000 ml, 46.0 g | O | H2O
solvent | water | 464 ml | O | H2O
product | 3-bromo-2,4-dichloro-5-fluoronitrobenzene | 91.9% yield | BrC=1C(=C(C=C(C1Cl)F)[N+](=O)[O-])Cl | C6HBrCl2FNO2
